US03952033
Preparation of 4-carboxy-2-methylbutyltriphenylphosphonium bromide
A stirred solution of 61.3 g. of (R)-5-bromo-4-methylpentanoic acid [J. S. Dalby et al., J. Chem. Soc., 1962, 4387], 92.0 g. of triphenylphosphine, and 160 ml. of acetonitrile is refluxed for 96 hours. The solution is cooled until crystallization begins and then diluted with 750 ml. of diethyl ether to complete the precipitation. The salt is obtained by filtration and is dried in vacuo at 75°C., m.p. 151°-164°C.

reactant | (R)-5-bromo-4-methylpentanoic acid | BrC[C@@H](CCC(=O)O)C | C6H11BrO2
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | acetonitrile | C(C)#N | C2H3N
solvent | diethyl ether | C(C)OCC | C4H10O
product | 4-carboxy-2-methylbutyltriphenylphosphonium bromide | [Br-].C(=O)(O)CCC(C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C | InChI=1S/C24H25O2P.BrH/c1-20(17-18-24(25)26)19-27(21-11-5-2-6-12-21,22-13-7-3-8-14-22)23-15-9-4-10-16-23;/h2-16,20H,17-19H2,1H3;1H
